US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.10 g, 0.46 mmol), valeryl chloride (0.055 mL, 0.46 mmol), and poly(vinylpyridine) (0.5 g) in dichloromethane (12 mL) provided N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-ylpentanamide (0.099 g). MS m/z 300 ([M+H]+); HRMS: calcd for C19H25NO2 +H+, 300.19581; found (ESI, [M+H]+), 300.1950.

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.46 mmol, 0.10 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | valeryl chloride | 0.46 mmol, 0.055 mL | C(CCCC)(=O)Cl | C5H9ClO
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | N-6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-ylpentanamide | 0.099 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(CCCC)=O | C19H25NO2
